US07834037B2
Step 3c: NCS Chloride Formation (Int-50)
2-Fluoro-6-methylpyridine (1.11 g, 10 mmol), NCS (2.0 g, 15 mmol), and catalytic benzoyl peroxide were dissolved in benzene and heated to reflux overnight. The reaction was concentrated and diluted with water and EtOAc. The organic layer was washed with saturated aq. NaHCO3, dried, filtered, and concentrated. The residue was purified on silica gel to give the desired product.

reactant | 2-Fluoro-6-methylpyridine | 10 mmol, 1.11 g | FC1=NC(=CC=C1)C | C6H6FN
reactant | NCS | 15 mmol, 2.0 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | NCS Chloride | C1CC(=O)N(C1=O)Cl.[Cl-] | InChI=1S/C4H4ClNO2.ClH/c5-6-3(7)1-2-4(6)8;/h1-2H2;1H/p-1
